US07691882B2
3-(1-(4-Benzyloxy-benzyl)-1H-pyrazol-4-yl)-pyridin-2,6-diamine
To a solution of 3-(1H-pyrazol-4-yl)-pyridin-2,6-diamine (25 mg, 0.14 mmol) described in Manufacturing Example 36-1-2 in N,N-dimethylformamide (10 mL) was added sodium hydride (8.6 mg, 0.22 mmol, 60% in oil) under nitrogen atmosphere on an ice bath (0° C.), which was stirred for 30 minutes at room temperature. 4-Benzyloxybenzyl chloride (49.9 mg, 0.22 mmol) was then added and stirred for 30 minutes at room temperature. The reaction mixture was partitioned into water and ethyl acetate at room temperature. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=2:1, then ethyl acetate only) to obtain the title compound (24.0 mg, 45%).

reactant | 3-(1H-pyrazol-4-yl)-pyridin-2,6-diamine | 0.14 mmol, 25 mg | N1N=CC(=C1)C=1C(=NC(=CC1)N)N | C8H9N5
reactant | sodium hydride | 0.22 mmol, 8.6 mg | [H-].[Na+]
reactant | 4-Benzyloxybenzyl chloride | 0.22 mmol, 49.9 mg | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-(1-(4-Benzyloxy-benzyl)-1H-pyrazol-4-yl)-pyridin-2,6-diamine | 24.0 mg, 45% | C(C1=CC=CC=C1)OC1=CC=C(CN2N=CC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C22H21N5O
